US07423056B2
a.) cis-3-(4,5-Dibromo-thiophen-2-yl)-acrylic acid tert-butyl ester (Scheme 3)
(Diphenoxy-phosphoryl)-acetic acid tert-butyl ester (8.49 g, 24.4 mmol) was dissolved in THF (519 ml) and cooled to −78° C. followed by the addition of triton B (13.3 ml, 40% by wt. in MeOH). After 15 minutes a solution of 4,5-Dibromo-thiophene-2-carbaldehyde (7.0 g, 25.9 mmol) in THF (20 ml) was added and the reaction was stirred for 1 hour. Next, the reaction mixture was quenched with sat. NH4Cl (250 ml), diluted with H2O (500 ml), and extracted with EtOAc (2×300 ml). The organic layers were washed with water (2×200 ml), brine (100 ml), and dried (MgSO4). The crude was passed through a plug of silica gel with EtOAc providing the desired product 9.2 g (96%) as a 4:1 mixture of cis:trans. MS calculated for C10H12BrNS−H 367, observed M-tBu 309, 311, 313.

reactant | (Diphenoxy-phosphoryl)-acetic acid tert-butyl ester | 24.4 mmol, 8.49 g | C(C)(C)(C)OC(CP(=O)(OC1=CC=CC=C1)OC1=CC=CC=C1)=O | C18H21O5P
reactant | 4,5-Dibromo-thiophene-2-carbaldehyde | 25.9 mmol, 7.0 g | BrC=1C=C(SC1Br)C=O | C5H2Br2OS
solvent | THF | 519 ml | C1CCOC1 | C4H8O
solvent | MeOH | CO | CH4O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | cis-3-(4,5-Dibromo-thiophen-2-yl)-acrylic acid tert-butyl ester | C(C)(C)(C)OC(\C=C/C=1SC(=C(C1)Br)Br)=O | C11H12Br2O2S
